US08685974B2
A mixture of 1-(4,5-dibromo-2-thienyl)ethanone (9.7 mmol) and N,N-dimethylformamide dimethyl acetal (44.8 mmol) was refluxed for 3 h and then allowed to cool to room temperature. The reaction mixture was concentrated under reduced pressure and dried in vacuo to afford 3.24 g (94% yield) of 1-(4,5-dibromo-2-thienyl)-3-(dimethylamino)prop-2-en-1-one which was used in the next step without further purification.

reactant | 1-(4,5-dibromo-2-thienyl)ethanone | 9.7 mmol | BrC=1C=C(SC1Br)C(C)=O | C6H4Br2OS
reactant | N,N-dimethylformamide dimethyl acetal | 44.8 mmol | COC(N(C)C)OC | C5H13NO2
product | 1-(4,5-dibromo-2-thienyl)-3-(dimethylamino)prop-2-en-1-one | 3.24 g, 94% yield | BrC=1C=C(SC1Br)C(C=CN(C)C)=O | C9H9Br2NOS
